US08609731B2
((S)-6-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrrolidine-1-ylmethanone
To a solution of [(S)-6-(pyrrolidine-1-carbonyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-carbamic acid tert-butyl ester (0.70 g) in MeOH (5 ml) was added concentrated hydrochloric acid (5 ml). After one hour, the mixture was basified with concentrated sodium hydroxide solution and extracted three times with DCM. The combined organic phases were dried over magnesium sulfate and concentrated. The product was thus obtained with the molecular weight of 244.34 (C15H20N2O); MS (ESI): 245 (M+H+).

reactant | [(S)-6-(pyrrolidine-1-carbonyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-carbamic acid tert-butyl ester | 0.70 g | C(C)(C)(C)OC(N[C@@H]1CC2=CC=C(C=C2CC1)C(=O)N1CCCC1)=O | C20H28N2O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | ((S)-6-Amino-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrrolidine-1-ylmethanone | N[C@@H]1CC=2C=CC(=CC2CC1)C(=O)N1CCCC1 | C15H20N2O
